US07439393B2
ix) (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-(6-{2-[(3-nitrobenzyl)oxy]-ethoxy}hexyl)-1,3-oxazolidin-2-one
A solution of (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-3-[6-(2-hydroxyethoxy)hexyl]-1,3-oxazolidin-2-one (0.20 g) in DMF (5 ml) was treated with sodium hydride (60% dispersion in mineral oil, 0.030 g) and the mixture stirred under nitrogen at 20° C. for 15 min. 3-nitrobenzylbromide (0.11 g) was added, and the mixture stirred at 20° C. for a further 3 h. Phosphate buffer (20 ml, pH6.5) was added and the mixture was stirred for 5 min before extracting with EtOAc (3×20 ml). The organic layer was washed with water (3×20 ml), dried over Na2SO4 and filtered. Solvent evaporation gave the crude product which was purified by flash chromatography on silica. Elution with EtOAc-cyclohexane (7:3) followed by solvent evaporation in vacuo gave the title compound (0.10 g). LCMS RT=3.61 min, ES+ve 529 (MH)+.

reactant | (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-3-[6-(2-hydroxyethoxy)hexyl]-1,3-oxazolidin-2-one | 0.20 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCO)C | C21H31NO6
reactant | sodium hydride | 0.030 g | [H-].[Na+]
reactant | 3-nitrobenzylbromide | 0.11 g | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
reactant | Phosphate | 20 ml, pH6.5 | P(=O)([O-])([O-])[O-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-(6-{2-[(3-nitrobenzyl)oxy]-ethoxy}hexyl)-1,3-oxazolidin-2-one | 0.10 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC2=CC(=CC=C2)[N+](=O)[O-])C | C28H36N2O8
